US03989745
A solution of 5-amino-4-benzoyl-3-n-butoxybenzoic acid (1.0 g) and formic acid (10 ml) is stirred at room temperature for 24 hours. After cooling, the resulting precipitate is collected and washed with ice-cold formic acid followed by cold water. After drying and recrystallization from ethanol, 4-benzoyl-3-n-butoxy-5-formamidobenzoic acid is obtained with a melting point of 180°-183° C.

reactant | 5-amino-4-benzoyl-3-n-butoxybenzoic acid | 1.0 g | NC=1C(=C(C=C(C(=O)O)C1)OCCCC)C(C1=CC=CC=C1)=O | C18H19NO4
reactant | formic acid | 10 ml | C(=O)O | CH2O2
product | 4-benzoyl-3-n-butoxy-5-formamidobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1NC=O)OCCCC | C19H19NO5
